US05654298
4-(N-ethylanilino)-2-ethoxy-6-methylpyridine hydrochloride (0.584 g, 2 mM) in ethanolamine (5 ml) was heated under argon at 180° C. for 24 hours. The solution was cooled, diluted with water (50 ml), basified with aqueous sodium carbonate solution and extracted with methylene chloride (4×10 ml). The organic extracts were combined, dried (MgSO4) and evaporated to give a gum. This gum was triturated with ether to give, 4-(N-ethylanilino)-2-hydroxy-6-methylpyridine as a white solid (0.05 g) which was collected by filtration. The filtrate was evaporated and the residue was purified by flash column chromatography, eluting successively with methanol/methylene chloride (1:19 v/v), methanol/methylene chloride, (1:9 v/v/) and methanol/methylene chloride/0.88d aqueous NH4OH (20:80:1 v/v) to give a gum. This gum was dissolved in ethyl acetate and treated with etheral hydrogen chloride to give a gum which solidified on standing. The solid was washed with ether to give 4-(N-ethylanilino)-2-(2-hydroxyethylamino)-6-methylpyridine hydrochloride (0.15 g, 24% yield); m.p. 190° C.; microanalysis, found C, 62.2; H, 7.5; N, 13.7%; C16H22N3OCl requires: C, 62.4; H, 7.15; N, 13.6%; NMR: 1.1-1.2 (3H, t, CH3), 2.23(3H, s, CH3), 3.2-3.32(2H, q, CH2), 3.5-3.6(2H, t, CH2), 3.7-3.85(2H, q, CH2), 5.7(1H, s, CH), 5.9(1H, s, CH), 7.2-7.6(5H, complex, aromatic), 4.7-5.1(1H, broad, OH), 12.4(1H, NH).

reactant | 4-(N-ethylanilino)-2-ethoxy-6-methylpyridine hydrochloride | 2 mM, 0.584 g | Cl.C(C)N(C1=CC=CC=C1)C1=CC(=NC(=C1)C)OCC
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen chloride | Cl | ClH
reactant | ethanolamine | 5 ml | C(O)CN | C2H7NO
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(N-ethylanilino)-2-(2-hydroxyethylamino)-6-methylpyridine hydrochloride | 0.15 g, 24% yield | Cl.C(C)N(C1=CC=CC=C1)C1=CC(=NC(=C1)C)NCCO | InChI=1S/C16H21N3O.ClH/c1-3-19(14-7-5-4-6-8-14)15-11-13(2)18-16(12-15)17-9-10-20;/h4-8,11-12,20H,3,9-10H2,1-2H3,(H,17,18);1H
